US05910498
Ethyl 1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate
Ethyl 1-(2,4-difluoro-5-nitrophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (3.7 grams) was dissolved in 60 ml of acetic acid, to which was added 400 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred for 2 days at room temperature. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. Ethanol was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 2.9 g of the title compound.

reactant | Ethyl 1-(2,4-difluoro-5-nitrophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 3.7 grams | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H10F4N2O5
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | Ethyl 1-(3-amino-4,6-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.9 g | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H12F4N2O3
